US04906756
Another synthetic route involved preparation of a 2-(2-thienyl)ethanol, its conversion to 2-(2-thienyl)ethyl paratoluene sulfonate and benzylation with o-chlorobenzylamine to give N-(2-chloro-benzyl)-2-(2-thienyl)ethylamine hydrochloride, which is cyclized to give ticlopidine free base, as described by Braye in U.S. Pat. No. 4,127,580.

reactant | 2-(2-thienyl)ethanol | S1C(=CC=C1)CCO | C6H8OS
reactant | 2-(2-thienyl)ethyl paratoluene sulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCC=1SC=CC1)C | C13H14O3S2
reactant | o-chlorobenzylamine | ClC1=C(CN)C=CC=C1 | C7H8ClN
product | N-(2-chloro-benzyl)-2-(2-thienyl)ethylamine hydrochloride | Cl.ClC1=C(CNCCC=2SC=CC2)C=CC=C1 | InChI=1S/C13H14ClNS.ClH/c14-13-6-2-1-4-11(13)10-15-8-7-12-5-3-9-16-12;/h1-6,9,15H,7-8,10H2;1H
